US05116404
3-(2,6-dichloro-4-trifluoromethylphenyl)-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione (compound No. 5.8 of the present invention)
A 20 ml dimethylformamide solution of 2.7 g of ethyl 3-amino-4,4,4-trifluorocrotonate was added dropwise to a 20 ml dimethylformamide solution of 0.78 g of sodium hydride (purity: 55%) with stirring at 0° C. After heated to room temperature under stirring for 15 minutes, the mixed solution was cooled to -30° C. and then added dropwise with 20 ml of a dimethylformamide solution of 3.8 g of 2,6-dichloro-4-trifluoromethylphenyl isocyanate. The resulting solution was again heated to room temperature and stirred at 80° C. for 30 minutes. Then the solvent was distilled away under reduced pressure and the residue was dissolved by adding 100 ml of water. This aqueous solution was washed twice with diethyl ether, then added to a mixed solution of 50 g of ice and 20 ml of concentrated hydrochloric acid, and extracted with ethyl acetate. The obtained organic layer was washed with water and dried, and the solvent was distilled away under reduced pressure to obtain 3.75 g of a crude product. This crude product was recrystallized from a mixed solvent of diisopropyl ether and isopropyl alcohol to obtain 1.65 g of the objective compound.

reactant | ethyl 3-amino-4,4,4-trifluorocrotonate | 2.7 g | N\C(=C/C(=O)OCC)\C(F)(F)F | C6H8F3NO2
reactant | sodium hydride | 0.78 g | [H-].[Na+]
reactant | 2,6-dichloro-4-trifluoromethylphenyl isocyanate | 3.8 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N=C=O | C8H2Cl2F3NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3-(2,6-dichloro-4-trifluoromethylphenyl)-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione | 1.65 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1C(NC(=CC1=O)C(F)(F)F)=O | C12H4Cl2F6N2O2
